US05672586
A solution of lithium hexamethyl-disilazane (LiHMDS, 1.0M in THF, 120 mL, 120 mmol) was added to dry THF (300 mL). The resultant solution was cooled to 0°. Meanwhile, a solution of (4S)-(1-methylethyl)-3-(1-oxopropyl)-2-oxazolidinone (20.9 g, 113 mmol) in dry THF (200 mL) was cooled to 0°, and then cannulated into the LiHMDS solution. After 30 min at 0°, benzyl bromide (13.4 mL, 113 mmol) was added. The resultant mixture was stirred at 0° for 2 h and then allowed to warm to room temperature. The mixture was treated with 10% aqueous citric acid and then extracted with EtOAc (2 X). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated to provide a yellow oil mixed with a solid. This material was purified by flash chromatography [SiO2, eluent: EtOAc-hexane (1:10 to 1:3)] to provide 4(S)-(1-methylethyl)-3-(2(R)-methyl-1-oxo-3-phenylpropyl)-2-oxazolidinone as a clear pale yellow liquid (26.8 g, 86% yield). 1H NMR (CDCl3) δ 7.29-7.24 (m, 4H), 7.22-7.16 (m, 1H), 4.45-4.41 (m, 1H), 4.26-4.13 (m, 3H), 3.13 (dd, J=13, 7.5 Hz, 1H), 2.64 (dd, J=13, 7.5 Hz, 1H), 2.22-2.12 (m, 1H), 1.16 (d, J=6.5 Hz, 3H), 0.84 (d, J=7 Hz, 3H), 0.61 (d, J=7 Hz, 3H).

reactant | lithium hexamethyl-disilazane | 120 mmol, 1.0M, 120 mL | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | (4S)-(1-methylethyl)-3-(1-oxopropyl)-2-oxazolidinone | 113 mmol, 20.9 g | CC(C)[C@@H]1N(C(OC1)=O)C(CC)=O | C9H15NO3
reactant | benzyl bromide | 113 mmol, 13.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4(S)-(1-methylethyl)-3-(2(R)-methyl-1-oxo-3-phenylpropyl)-2-oxazolidinone | 26.8 g, 86% yield | CC(C)[C@@H]1N(C(OC1)=O)C([C@@H](CC1=CC=CC=C1)C)=O | C16H21NO3
